* Peak current-mode boost converter  (Iref=1.2 A, mc=0.0 A/s)
.title CMC boost Iref=1.2 mc=0.0

* ---- power stage ----
Vin  in   0   dc 10.0
Lind in   sw  0.001 ic=0
* ideal-ish MOSFET as voltage-controlled switch (gate node = q)
Sw   sw   0   q 0  swmod
Dout sw   out dmod
Cout out  0   4e-06 ic=0
Rload out 0   20.0

.model swmod sw(vt=0.5 vh=0.05 ron=0.01 roff=1e6)
.model dmod  d(is=1e-14 n=1 rs=0.01)

* ---- current sense: sensed voltage = i(Lind)*Rsense ----
Bsense isns 0 v = i(Lind)*1.0

* ---- clock: 10 kHz, narrow SET pulse (2% duty) ----
Vclk clk 0 PULSE(0 1 0 1n 1n 2.0000000000000003e-06 0.0001)

* ---- compensating sawtooth ramp, reset each period (slope mc) ----
* integrate (1) but reset on clock: approximate with a sawtooth via PULSE
Vramp rmp 0 PULSE(0 0.0 0 9.8e-05 1n 1n 0.0001)

* ---- compensated reference: (Iref)*Rsense - ramp ----
Bref ref 0 v = 1.2 - v(rmp)

* ---- comparator: RESET high when sensed current exceeds reference ----
Bcmp rst 0 v = ( v(isns) > v(ref) ) ? 1 : 0

* ---- SR latch (set=clk, reset=rst), Q=q -> gate ----
* Q = NOR(reset, Qbar); Qbar = NOR(set, Q). Implement with behavioural
* sources + small RC memory to give a clean bistable.
Bq    qd  0 v = ( (v(rst) > 0.5) || (v(qbar) > 0.5) ) ? 0 : 1
Rq    qd  q 100
Cq    q   0 1n ic=0
Bqb   qbd 0 v = ( (v(clk) > 0.5) || (v(q) > 0.5) ) ? 0 : 1
Rqb   qbd qbar 100
Cqb   qbar 0 1n ic=0

.ic v(q)=1 v(qbar)=0

.control
set noaskquit
tran 50n 0.04 uic
* sample inductor current at clock instants (just before each SET) and
* write the full transient too
wrdata /home/victus/Papers/Victus_Pardus_0004_PowerConv_Dynamics/Nonlinear_Dynamics/code/../data/boost_p2.raw i(Lind) v(out) v(q)
.endc
.end
